US04563522
10% Palladium carbon (0.6 g.) was added to a solution of p-nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate (anti isomer, 1.16 g.) in methanol 20 ml.) and tetrahydrofuran (40 ml.), and the mixture was subjected to catalytic reduction at room temperature under atmospheric pressure for 5 hours. After removing the catalyst from the reaction mixture, the filtrate was concentrated under reduced pressure. Water (30 ml.) and ethyl acetate (60 ml.) were added to the residue, and the mixture was adjusted to pH 7.5 with an aqueous solution of sodium bicarbonate and shaked sufficiently. The aqueous layer was separated and ethyl acetate (90 ml.) was added to the aqueous solution. The aqueous layer was adjusted to pH 2.5 with 10% hydrochloric acid with stirring under ice-cooling, and the ethyl acetate layer was separated. The remaining aqueous layer was extracted with ethyl acetate (30 ml.), and the extract and the ethyl acetate layer were combined together, washed with an aqueous solution of sodium chloride, dried and then concentrated under reduced pressure. The residue was washed with diisopropyl ether to give 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylic acid (anti isomer, 0.47 g.). The compound was colored at 210° C. and decomposed at above than 250° C.

reactant | p-nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate | 1.16 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H17ClN6O8S2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
catalyst | Palladium carbon | 0.6 g | [C].[Pd]
product | 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylic acid | 0.47 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOC | C14H12ClN5O6S2
